US07626021B2
2-{2-Dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenylcarbamoyl}-azetidine-1-carboxylic acid tert-butyl ester (149.6 mg, 0.213 mmol) was treated with PS-thiophenol (Argonaut Technologies, Inc., 1.0 eq., 317 mg) and 5% hydrochloric acid in acetic acid (5 mL) for 3.5 h. The mixture was filtered and rinsed with ethyl acetate to remove the acetic acid (the solid product stuck in the resin) and then the product was eluted using methanol. The methanol solution was concentrated in vacuo and then lyophilized from acetonitrile/water to afford azetidine-2-carboxylic acid {2-dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-amide (32.3 mg, 32.2%). 1H-NMR (500 MHz, dimethylsulfoxide-d6) δ 2.24 (m, 1H), 2.57 (m, 1H), 2.95 (s, 3H), 3.04 (s, 3H), 3.15 (m, 1H), 3.63 (q, J=7.5 Hz, 1H), 3.84 (s, 3H), 4.23 (m, 1H), 7.08 (t, J=7.0 Hz, 1H), 7.21 (d, J=8.5 Hz, 1H), 7.45 (dd, J=2.0, J=7.5 Hz 1H), 7.64 (dd, J=1.5 Hz, J=9.0 Hz, 1H), 8.33 (d, J=8.0 Hz, 1H), 8.35 (s, 1H), 8.87 (d, J=2.5 Hz, 1H), 10.31 (s, 1H). MS: m/z 471 (M+H+).

reactant | 2-{2-Dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenylcarbamoyl}-azetidine-1-carboxylic acid tert-butyl ester | 0.213 mmol, 149.6 mg | C(C)(C)(C)OC(=O)N1C(CC1)C(NC1=C(C=C(C=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C)C(N(C)C)=O)=O | C37H48N6O6Si
reactant | thiophenol | 317 mg, 1.0 eq. | C1(=CC=CC=C1)S | C6H6S
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | azetidine-2-carboxylic acid {2-dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-amide | 32.3 mg, 32.2% | CN(C(=O)C1=C(C=CC(=C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC)NC(=O)C2NCC2)C | C26H26N6O3
